* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.000337490589355701
Fd1_1 0 s1 V1 0.01687452946778505
Gr1_1_1 0 s1 x1_a1 0 6.92484688578475e+16
Gr2_1_1 0 s1 x2_a1 0 -2.338532001655112e+17
Gr3_1_1 0 s1 x3_a1 0 -1.6818562008394563e+17
Gr4_1_1 0 s1 x4_a1 0 3.02817541561907e+17
Gr5_1_1 0 s1 x5_a1 0 4.794925678068697e+17
Gr6_1_1 0 s1 x6_a1 0 -5.214051741869679e+17
Gr7_1_1 0 s1 x7_a1 0 1.2829134556699326e+16
Gr8_1_1 0 s1 x8_a1 0 -1.98317852069064e+16
Gr9_1_1 0 s1 x9_a1 0 -155932569340152.06
Gr10_re_1_1 0 s1 x10_re_a1 0 -2857010429695.9907
Gr10_im_1_1 0 s1 x10_im_a1 0 -13988318122558.094
Gr11_re_1_1 0 s1 x11_re_a1 0 -225609507901.60858
Gr11_im_1_1 0 s1 x11_im_a1 0 379353052932.8407
Gr12_re_1_1 0 s1 x12_re_a1 0 2070937796.4502811
Gr12_im_1_1 0 s1 x12_im_a1 0 4368660888.063288
Gr13_re_1_1 0 s1 x13_re_a1 0 -862647.1968172407
Gr13_im_1_1 0 s1 x13_im_a1 0 17744.10104873893
Gr14_re_1_1 0 s1 x14_re_a1 0 1977603852.4317558
Gr14_im_1_1 0 s1 x14_im_a1 0 -137086466.81318054
Gr15_re_1_1 0 s1 x15_re_a1 0 25076809684.786503
Gr15_im_1_1 0 s1 x15_im_a1 0 67293374437.612274
Gr16_re_1_1 0 s1 x16_re_a1 0 -7404.223576613167
Gr16_im_1_1 0 s1 x16_im_a1 0 -24556.118645299586
Gr17_re_1_1 0 s1 x17_re_a1 0 -220206872174.27402
Gr17_im_1_1 0 s1 x17_im_a1 0 93697815185.03615
Gr18_re_1_1 0 s1 x18_re_a1 0 154092662273.84842
Gr18_im_1_1 0 s1 x18_im_a1 0 286164971859.54755
Gr19_1_1 0 s1 x19_a1 0 4938932262501.845
Gr20_1_1 0 s1 x20_a1 0 -872739768999.0372
Gr21_re_1_1 0 s1 x21_re_a1 0 53148395.62468143
Gr21_im_1_1 0 s1 x21_im_a1 0 54213660.08532433
Gr22_re_1_1 0 s1 x22_re_a1 0 -1569604.6313959667
Gr22_im_1_1 0 s1 x22_im_a1 0 10006814.611991817
Gr23_1_1 0 s1 x23_a1 0 -1345956.055470686
Gr24_re_1_1 0 s1 x24_re_a1 0 -638076.1617858734
Gr24_im_1_1 0 s1 x24_im_a1 0 622362.1232897462
Gd1_2 0 s1 p2 0 0.0016303873933227434
Fd1_2 0 s1 V2 0.08151936966613717
Gr1_1_2 0 s1 x1_a2 0 1.6804941485837048e+18
Gr2_1_2 0 s1 x2_a2 0 -5.327590497448841e+18
Gr3_1_2 0 s1 x3_a2 0 -3.93935796593414e+18
Gr4_1_2 0 s1 x4_a2 0 6.953084783123532e+18
Gr5_1_2 0 s1 x5_a2 0 1.1105720837721352e+19
Gr6_1_2 0 s1 x6_a2 0 -1.2039404427500292e+19
Gr7_1_2 0 s1 x7_a2 0 3.3250135150267584e+17
Gr8_1_2 0 s1 x8_a2 0 -5.0276756248646554e+17
Gr9_1_2 0 s1 x9_a2 0 -5524264291605332.0
Gr10_re_1_2 0 s1 x10_re_a2 0 95202559292169.64
Gr10_im_1_2 0 s1 x10_im_a2 0 -468805658177637.7
Gr11_re_1_2 0 s1 x11_re_a2 0 -12586991980890.092
Gr11_im_1_2 0 s1 x11_im_a2 0 4587926105779.953
Gr12_re_1_2 0 s1 x12_re_a2 0 -55470080084.8236
Gr12_im_1_2 0 s1 x12_im_a2 0 114728333345.8314
Gr13_re_1_2 0 s1 x13_re_a2 0 18846571.905136045
Gr13_im_1_2 0 s1 x13_im_a2 0 -29494933.978396293
Gr14_re_1_2 0 s1 x14_re_a2 0 34130048998.06635
Gr14_im_1_2 0 s1 x14_im_a2 0 43931074138.49822
Gr15_re_1_2 0 s1 x15_re_a2 0 -1121884289315.393
Gr15_im_1_2 0 s1 x15_im_a2 0 2130206256813.057
Gr16_re_1_2 0 s1 x16_re_a2 0 45893.57706387983
Gr16_im_1_2 0 s1 x16_im_a2 0 -78374.243936045
Gr17_re_1_2 0 s1 x17_re_a2 0 -9421123783434.188
Gr17_im_1_2 0 s1 x17_im_a2 0 -3110510836302.831
Gr18_re_1_2 0 s1 x18_re_a2 0 -2883472680834.9355
Gr18_im_1_2 0 s1 x18_im_a2 0 22969026039856.742
Gr19_1_2 0 s1 x19_a2 0 384764199945815.56
Gr20_1_2 0 s1 x20_a2 0 -97494988330763.08
Gr21_re_1_2 0 s1 x21_re_a2 0 -1188127543.9718225
Gr21_im_1_2 0 s1 x21_im_a2 0 1591364289.5794842
Gr22_re_1_2 0 s1 x22_re_a2 0 -154441396.00199553
Gr22_im_1_2 0 s1 x22_im_a2 0 -80794945.1277334
Gr23_1_2 0 s1 x23_a2 0 -10382002.744330557
Gr24_re_1_2 0 s1 x24_re_a2 0 -9146864.940090686
Gr24_im_1_2 0 s1 x24_im_a2 0 -5026406.917461369
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 6.975948443918228e-13
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 6.921119395317432e-13
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 2.4209068322358886e-12
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 2.358306915512671e-12
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 6.893288616791205e-12
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 6.526206050309926e-12
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 1.9208744290747144e-11
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 1.6934662759659125e-11
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 4.9418928695297305e-11
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 7.526036380200749e-11
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 11873276031.65392
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -11873276031.65392
Rp10_im_im_a1 0 x10_im_a1 7.526036380200749e-11
Cx11_re_a1 x11_re_a1 0 1.0
Gx11_re_a1 0 x11_re_a1 p1 0 0.1414213562373095
Fx11_re_a1 0 x11_re_a1 V1 7.0710678118654755
Rp11_re_re_a1 0 x11_re_a1 1.5084551303736345e-10
Gp11_re_im_a1 0 x11_re_a1 x11_im_a1 0 14295822950.510448
Cx11_im_a1 x11_im_a1 0 1.0
Gp11_im_re_a1 0 x11_im_a1 x11_re_a1 0 -14295822950.510448
Rp11_im_im_a1 0 x11_im_a1 1.5084551303736345e-10
Cx12_re_a1 x12_re_a1 0 1.0
Gx12_re_a1 0 x12_re_a1 p1 0 0.1414213562373095
Fx12_re_a1 0 x12_re_a1 V1 7.0710678118654755
Rp12_re_re_a1 0 x12_re_a1 3.932372900912833e-10
Gp12_re_im_a1 0 x12_re_a1 x12_im_a1 0 14646947671.663607
Cx12_im_a1 x12_im_a1 0 1.0
Gp12_im_re_a1 0 x12_im_a1 x12_re_a1 0 -14646947671.663607
Rp12_im_im_a1 0 x12_im_a1 3.932372900912833e-10
Cx13_re_a1 x13_re_a1 0 1.0
Gx13_re_a1 0 x13_re_a1 p1 0 0.1414213562373095
Fx13_re_a1 0 x13_re_a1 V1 7.0710678118654755
Rp13_re_re_a1 0 x13_re_a1 8.670658762549657e-09
Gp13_re_im_a1 0 x13_re_a1 x13_im_a1 0 14262282179.63786
Cx13_im_a1 x13_im_a1 0 1.0
Gp13_im_re_a1 0 x13_im_a1 x13_re_a1 0 -14262282179.63786
Rp13_im_im_a1 0 x13_im_a1 8.670658762549657e-09
Cx14_re_a1 x14_re_a1 0 1.0
Gx14_re_a1 0 x14_re_a1 p1 0 0.1414213562373095
Fx14_re_a1 0 x14_re_a1 V1 7.0710678118654755
Rp14_re_re_a1 0 x14_re_a1 4.767090017973368e-10
Gp14_re_im_a1 0 x14_re_a1 x14_im_a1 0 13732812858.609577
Cx14_im_a1 x14_im_a1 0 1.0
Gp14_im_re_a1 0 x14_im_a1 x14_re_a1 0 -13732812858.609577
Rp14_im_im_a1 0 x14_im_a1 4.767090017973368e-10
Cx15_re_a1 x15_re_a1 0 1.0
Gx15_re_a1 0 x15_re_a1 p1 0 0.1414213562373095
Fx15_re_a1 0 x15_re_a1 V1 7.0710678118654755
Rp15_re_re_a1 0 x15_re_a1 2.206171726907756e-10
Gp15_re_im_a1 0 x15_re_a1 x15_im_a1 0 12103674323.754778
Cx15_im_a1 x15_im_a1 0 1.0
Gp15_im_re_a1 0 x15_im_a1 x15_re_a1 0 -12103674323.754778
Rp15_im_im_a1 0 x15_im_a1 2.206171726907756e-10
Cx16_re_a1 x16_re_a1 0 1.0
Gx16_re_a1 0 x16_re_a1 p1 0 0.1414213562373095
Fx16_re_a1 0 x16_re_a1 V1 7.0710678118654755
Rp16_re_re_a1 0 x16_re_a1 1.2097006333156181e-06
Gp16_re_im_a1 0 x16_re_a1 x16_im_a1 0 12579187483.391125
Cx16_im_a1 x16_im_a1 0 1.0
Gp16_im_re_a1 0 x16_im_a1 x16_re_a1 0 -12579187483.391125
Rp16_im_im_a1 0 x16_im_a1 1.2097006333156181e-06
Cx17_re_a1 x17_re_a1 0 1.0
Gx17_re_a1 0 x17_re_a1 p1 0 0.1414213562373095
Fx17_re_a1 0 x17_re_a1 V1 7.0710678118654755
Rp17_re_re_a1 0 x17_re_a1 1.6215775821096063e-10
Gp17_re_im_a1 0 x17_re_a1 x17_im_a1 0 9019293401.084581
Cx17_im_a1 x17_im_a1 0 1.0
Gp17_im_re_a1 0 x17_im_a1 x17_re_a1 0 -9019293401.084581
Rp17_im_im_a1 0 x17_im_a1 1.6215775821096063e-10
Cx18_re_a1 x18_re_a1 0 1.0
Gx18_re_a1 0 x18_re_a1 p1 0 0.1414213562373095
Fx18_re_a1 0 x18_re_a1 V1 7.0710678118654755
Rp18_re_re_a1 0 x18_re_a1 1.6319103470978357e-10
Gp18_re_im_a1 0 x18_re_a1 x18_im_a1 0 3066817329.083319
Cx18_im_a1 x18_im_a1 0 1.0
Gp18_im_re_a1 0 x18_im_a1 x18_re_a1 0 -3066817329.083319
Rp18_im_im_a1 0 x18_im_a1 1.6319103470978357e-10
Cx19_a1 x19_a1 0 1.0
Gx19_a1 0 x19_a1 p1 0 0.07071067811865475
Fx19_a1 0 x19_a1 V1 3.5355339059327378
Rp19_a1 0 x19_a1 1.289898164045167e-10
Cx20_a1 x20_a1 0 1.0
Gx20_a1 0 x20_a1 p1 0 0.07071067811865475
Fx20_a1 0 x20_a1 V1 3.5355339059327378
Rp20_a1 0 x20_a1 1.5948823864502961e-10
Cx21_re_a1 x21_re_a1 0 1.0
Gx21_re_a1 0 x21_re_a1 p1 0 0.1414213562373095
Fx21_re_a1 0 x21_re_a1 V1 7.0710678118654755
Rp21_re_re_a1 0 x21_re_a1 6.561551529031287e-10
Gp21_re_im_a1 0 x21_re_a1 x21_im_a1 0 2357895820.5922594
Cx21_im_a1 x21_im_a1 0 1.0
Gp21_im_re_a1 0 x21_im_a1 x21_re_a1 0 -2357895820.5922594
Rp21_im_im_a1 0 x21_im_a1 6.561551529031287e-10
Cx22_re_a1 x22_re_a1 0 1.0
Gx22_re_a1 0 x22_re_a1 p1 0 0.1414213562373095
Fx22_re_a1 0 x22_re_a1 V1 7.0710678118654755
Rp22_re_re_a1 0 x22_re_a1 1.434433551277715e-09
Gp22_re_im_a1 0 x22_re_a1 x22_im_a1 0 1112206147.7689474
Cx22_im_a1 x22_im_a1 0 1.0
Gp22_im_re_a1 0 x22_im_a1 x22_re_a1 0 -1112206147.7689474
Rp22_im_im_a1 0 x22_im_a1 1.434433551277715e-09
Cx23_a1 x23_a1 0 1.0
Gx23_a1 0 x23_a1 p1 0 0.07071067811865475
Fx23_a1 0 x23_a1 V1 3.5355339059327378
Rp23_a1 0 x23_a1 2.4719722809329975e-08
Cx24_re_a1 x24_re_a1 0 1.0
Gx24_re_a1 0 x24_re_a1 p1 0 0.1414213562373095
Fx24_re_a1 0 x24_re_a1 V1 7.0710678118654755
Rp24_re_re_a1 0 x24_re_a1 5.077117665514228e-09
Gp24_re_im_a1 0 x24_re_a1 x24_im_a1 0 494613468.799557
Cx24_im_a1 x24_im_a1 0 1.0
Gp24_im_re_a1 0 x24_im_a1 x24_re_a1 0 -494613468.799557
Rp24_im_im_a1 0 x24_im_a1 5.077117665514228e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.0016303873933227434
Fd2_1 0 s2 V1 0.08151936966613717
Gr1_2_1 0 s2 x1_a1 0 1.6804940909252823e+18
Gr2_2_1 0 s2 x2_a1 0 -5.327590305348349e+18
Gr3_2_1 0 s2 x3_a1 0 -3.9393578270452803e+18
Gr4_2_1 0 s2 x4_a1 0 6.953084533865247e+18
Gr5_2_1 0 s2 x5_a1 0 1.1105720442524793e+19
Gr6_2_1 0 s2 x6_a1 0 -1.2039403997827873e+19
Gr7_2_1 0 s2 x7_a1 0 3.325013411475379e+17
Gr8_2_1 0 s2 x8_a1 0 -5.0276754636524525e+17
Gr9_2_1 0 s2 x9_a1 0 -5524264177852130.0
Gr10_re_2_1 0 s2 x10_re_a1 0 95202562745987.2
Gr10_im_2_1 0 s2 x10_im_a1 0 -468805650406382.94
Gr11_re_2_1 0 s2 x11_re_a1 0 -12586992086132.512
Gr11_im_2_1 0 s2 x11_im_a1 0 4587925873073.627
Gr12_re_2_1 0 s2 x12_re_a1 0 -55470081155.88574
Gr12_im_2_1 0 s2 x12_im_a1 0 114728334485.488
Gr13_re_2_1 0 s2 x13_re_a1 0 18846569.592852388
Gr13_im_2_1 0 s2 x13_im_a1 0 -29494935.644382842
Gr14_re_2_1 0 s2 x14_re_a1 0 34130048714.282192
Gr14_im_2_1 0 s2 x14_im_a1 0 43931074317.537575
Gr15_re_2_1 0 s2 x15_re_a1 0 -1121884325519.7969
Gr15_im_2_1 0 s2 x15_im_a1 0 2130206257175.6982
Gr16_re_2_1 0 s2 x16_re_a1 0 45893.90057844087
Gr16_im_2_1 0 s2 x16_im_a1 0 -78373.95587614729
Gr17_re_2_1 0 s2 x17_re_a1 0 -9421123805847.56
Gr17_im_2_1 0 s2 x17_im_a1 0 -3110510846431.212
Gr18_re_2_1 0 s2 x18_re_a1 0 -2883472449757.8154
Gr18_im_2_1 0 s2 x18_im_a1 0 22969025589015.223
Gr19_2_1 0 s2 x19_a1 0 384764192368522.5
Gr20_2_1 0 s2 x20_a1 0 -97494986179099.03
Gr21_re_2_1 0 s2 x21_re_a1 0 -1188127573.13921
Gr21_im_2_1 0 s2 x21_im_a1 0 1591364026.28738
Gr22_re_2_1 0 s2 x22_re_a1 0 -154441404.80016854
Gr22_im_2_1 0 s2 x22_im_a1 0 -80794970.99737631
Gr23_2_1 0 s2 x23_a1 0 -10382002.868481684
Gr24_re_2_1 0 s2 x24_re_a1 0 -9146867.079635931
Gr24_im_2_1 0 s2 x24_im_a1 0 -5026416.899703414
Gd2_2 0 s2 p2 0 0.0003528905066576573
Fd2_2 0 s2 V2 0.017644525332882865
Gr1_2_2 0 s2 x1_a2 0 8.753234005563622e+16
Gr2_2_2 0 s2 x2_a2 0 -2.922767170067867e+17
Gr3_2_2 0 s2 x3_a2 0 -2.1123436468048387e+17
Gr4_2_2 0 s2 x4_a2 0 3.7898996157644435e+17
Gr5_2_2 0 s2 x5_a2 0 6.010248030113036e+17
Gr6_2_2 0 s2 x6_a2 0 -6.532053272048503e+17
Gr7_2_2 0 s2 x7_a2 0 1.6420912011451318e+16
Gr8_2_2 0 s2 x8_a2 0 -2.527590038273271e+16
Gr9_2_2 0 s2 x9_a2 0 -213962960718860.28
Gr10_re_2_2 0 s2 x10_re_a2 0 -2012944672049.6875
Gr10_im_2_2 0 s2 x10_im_a2 0 -18916457862009.97
Gr11_re_2_2 0 s2 x11_re_a2 0 -351916727678.4861
Gr11_im_2_2 0 s2 x11_im_a2 0 433666199843.37427
Gr12_re_2_2 0 s2 x12_re_a2 0 1598640589.1066077
Gr12_im_2_2 0 s2 x12_im_a2 0 5522659269.988644
Gr13_re_2_2 0 s2 x13_re_a2 0 -696270.9254591175
Gr13_im_2_2 0 s2 x13_im_a2 0 -277585.86852378247
Gr14_re_2_2 0 s2 x14_re_a2 0 2328895311.390977
Gr14_im_2_2 0 s2 x14_im_a2 0 279779325.4050193
Gr15_re_2_2 0 s2 x15_re_a2 0 14655151411.720388
Gr15_im_2_2 0 s2 x15_im_a2 0 89312706917.88481
Gr16_re_2_2 0 s2 x16_re_a2 0 -7356.800124114267
Gr16_im_2_2 0 s2 x16_im_a2 0 -25264.821472253014
Gr17_re_2_2 0 s2 x17_re_a2 0 -317131270604.5516
Gr17_im_2_2 0 s2 x17_im_a2 0 65257500722.64381
Gr18_re_2_2 0 s2 x18_re_a2 0 126698759611.25972
Gr18_im_2_2 0 s2 x18_im_a2 0 518509968581.74854
Gr19_2_2 0 s2 x19_a2 0 8858156635318.857
Gr20_2_2 0 s2 x20_a2 0 -1862792177680.0752
Gr21_re_2_2 0 s2 x21_re_a2 0 39282230.5219406
Gr21_im_2_2 0 s2 x21_im_a2 0 70589232.65851212
Gr22_re_2_2 0 s2 x22_re_a2 0 -3276060.1436545243
Gr22_im_2_2 0 s2 x22_im_a2 0 9249284.003694786
Gr23_2_2 0 s2 x23_a2 0 -1432311.50122787
Gr24_re_2_2 0 s2 x24_re_a2 0 -745075.001816656
Gr24_im_2_2 0 s2 x24_im_a2 0 586028.0415374896
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 6.975948443918228e-13
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 6.921119395317432e-13
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 2.4209068322358886e-12
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 2.358306915512671e-12
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 6.893288616791205e-12
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 6.526206050309926e-12
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 1.9208744290747144e-11
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 1.6934662759659125e-11
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 4.9418928695297305e-11
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 7.526036380200749e-11
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 11873276031.65392
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -11873276031.65392
Rp10_im_im_a2 0 x10_im_a2 7.526036380200749e-11
Cx11_re_a2 x11_re_a2 0 1.0
Gx11_re_a2 0 x11_re_a2 p2 0 0.1414213562373095
Fx11_re_a2 0 x11_re_a2 V2 7.0710678118654755
Rp11_re_re_a2 0 x11_re_a2 1.5084551303736345e-10
Gp11_re_im_a2 0 x11_re_a2 x11_im_a2 0 14295822950.510448
Cx11_im_a2 x11_im_a2 0 1.0
Gp11_im_re_a2 0 x11_im_a2 x11_re_a2 0 -14295822950.510448
Rp11_im_im_a2 0 x11_im_a2 1.5084551303736345e-10
Cx12_re_a2 x12_re_a2 0 1.0
Gx12_re_a2 0 x12_re_a2 p2 0 0.1414213562373095
Fx12_re_a2 0 x12_re_a2 V2 7.0710678118654755
Rp12_re_re_a2 0 x12_re_a2 3.932372900912833e-10
Gp12_re_im_a2 0 x12_re_a2 x12_im_a2 0 14646947671.663607
Cx12_im_a2 x12_im_a2 0 1.0
Gp12_im_re_a2 0 x12_im_a2 x12_re_a2 0 -14646947671.663607
Rp12_im_im_a2 0 x12_im_a2 3.932372900912833e-10
Cx13_re_a2 x13_re_a2 0 1.0
Gx13_re_a2 0 x13_re_a2 p2 0 0.1414213562373095
Fx13_re_a2 0 x13_re_a2 V2 7.0710678118654755
Rp13_re_re_a2 0 x13_re_a2 8.670658762549657e-09
Gp13_re_im_a2 0 x13_re_a2 x13_im_a2 0 14262282179.63786
Cx13_im_a2 x13_im_a2 0 1.0
Gp13_im_re_a2 0 x13_im_a2 x13_re_a2 0 -14262282179.63786
Rp13_im_im_a2 0 x13_im_a2 8.670658762549657e-09
Cx14_re_a2 x14_re_a2 0 1.0
Gx14_re_a2 0 x14_re_a2 p2 0 0.1414213562373095
Fx14_re_a2 0 x14_re_a2 V2 7.0710678118654755
Rp14_re_re_a2 0 x14_re_a2 4.767090017973368e-10
Gp14_re_im_a2 0 x14_re_a2 x14_im_a2 0 13732812858.609577
Cx14_im_a2 x14_im_a2 0 1.0
Gp14_im_re_a2 0 x14_im_a2 x14_re_a2 0 -13732812858.609577
Rp14_im_im_a2 0 x14_im_a2 4.767090017973368e-10
Cx15_re_a2 x15_re_a2 0 1.0
Gx15_re_a2 0 x15_re_a2 p2 0 0.1414213562373095
Fx15_re_a2 0 x15_re_a2 V2 7.0710678118654755
Rp15_re_re_a2 0 x15_re_a2 2.206171726907756e-10
Gp15_re_im_a2 0 x15_re_a2 x15_im_a2 0 12103674323.754778
Cx15_im_a2 x15_im_a2 0 1.0
Gp15_im_re_a2 0 x15_im_a2 x15_re_a2 0 -12103674323.754778
Rp15_im_im_a2 0 x15_im_a2 2.206171726907756e-10
Cx16_re_a2 x16_re_a2 0 1.0
Gx16_re_a2 0 x16_re_a2 p2 0 0.1414213562373095
Fx16_re_a2 0 x16_re_a2 V2 7.0710678118654755
Rp16_re_re_a2 0 x16_re_a2 1.2097006333156181e-06
Gp16_re_im_a2 0 x16_re_a2 x16_im_a2 0 12579187483.391125
Cx16_im_a2 x16_im_a2 0 1.0
Gp16_im_re_a2 0 x16_im_a2 x16_re_a2 0 -12579187483.391125
Rp16_im_im_a2 0 x16_im_a2 1.2097006333156181e-06
Cx17_re_a2 x17_re_a2 0 1.0
Gx17_re_a2 0 x17_re_a2 p2 0 0.1414213562373095
Fx17_re_a2 0 x17_re_a2 V2 7.0710678118654755
Rp17_re_re_a2 0 x17_re_a2 1.6215775821096063e-10
Gp17_re_im_a2 0 x17_re_a2 x17_im_a2 0 9019293401.084581
Cx17_im_a2 x17_im_a2 0 1.0
Gp17_im_re_a2 0 x17_im_a2 x17_re_a2 0 -9019293401.084581
Rp17_im_im_a2 0 x17_im_a2 1.6215775821096063e-10
Cx18_re_a2 x18_re_a2 0 1.0
Gx18_re_a2 0 x18_re_a2 p2 0 0.1414213562373095
Fx18_re_a2 0 x18_re_a2 V2 7.0710678118654755
Rp18_re_re_a2 0 x18_re_a2 1.6319103470978357e-10
Gp18_re_im_a2 0 x18_re_a2 x18_im_a2 0 3066817329.083319
Cx18_im_a2 x18_im_a2 0 1.0
Gp18_im_re_a2 0 x18_im_a2 x18_re_a2 0 -3066817329.083319
Rp18_im_im_a2 0 x18_im_a2 1.6319103470978357e-10
Cx19_a2 x19_a2 0 1.0
Gx19_a2 0 x19_a2 p2 0 0.07071067811865475
Fx19_a2 0 x19_a2 V2 3.5355339059327378
Rp19_a2 0 x19_a2 1.289898164045167e-10
Cx20_a2 x20_a2 0 1.0
Gx20_a2 0 x20_a2 p2 0 0.07071067811865475
Fx20_a2 0 x20_a2 V2 3.5355339059327378
Rp20_a2 0 x20_a2 1.5948823864502961e-10
Cx21_re_a2 x21_re_a2 0 1.0
Gx21_re_a2 0 x21_re_a2 p2 0 0.1414213562373095
Fx21_re_a2 0 x21_re_a2 V2 7.0710678118654755
Rp21_re_re_a2 0 x21_re_a2 6.561551529031287e-10
Gp21_re_im_a2 0 x21_re_a2 x21_im_a2 0 2357895820.5922594
Cx21_im_a2 x21_im_a2 0 1.0
Gp21_im_re_a2 0 x21_im_a2 x21_re_a2 0 -2357895820.5922594
Rp21_im_im_a2 0 x21_im_a2 6.561551529031287e-10
Cx22_re_a2 x22_re_a2 0 1.0
Gx22_re_a2 0 x22_re_a2 p2 0 0.1414213562373095
Fx22_re_a2 0 x22_re_a2 V2 7.0710678118654755
Rp22_re_re_a2 0 x22_re_a2 1.434433551277715e-09
Gp22_re_im_a2 0 x22_re_a2 x22_im_a2 0 1112206147.7689474
Cx22_im_a2 x22_im_a2 0 1.0
Gp22_im_re_a2 0 x22_im_a2 x22_re_a2 0 -1112206147.7689474
Rp22_im_im_a2 0 x22_im_a2 1.434433551277715e-09
Cx23_a2 x23_a2 0 1.0
Gx23_a2 0 x23_a2 p2 0 0.07071067811865475
Fx23_a2 0 x23_a2 V2 3.5355339059327378
Rp23_a2 0 x23_a2 2.4719722809329975e-08
Cx24_re_a2 x24_re_a2 0 1.0
Gx24_re_a2 0 x24_re_a2 p2 0 0.1414213562373095
Fx24_re_a2 0 x24_re_a2 V2 7.0710678118654755
Rp24_re_re_a2 0 x24_re_a2 5.077117665514228e-09
Gp24_re_im_a2 0 x24_re_a2 x24_im_a2 0 494613468.799557
Cx24_im_a2 x24_im_a2 0 1.0
Gp24_im_re_a2 0 x24_im_a2 x24_re_a2 0 -494613468.799557
Rp24_im_im_a2 0 x24_im_a2 5.077117665514228e-09
.ENDS s_equivalent
